US06960575B2
Isopropyl (2RS,3S)-3-(benzyloxycarbonyl)amino-2-hydroxy-4-phenylbutyrate (Reference compound No. 13-1)
Water (10 ml) and sodium carbonate (763 mg) are added to a solution of isopropyl (2RS,3S)-3-amino-2-hydroxy-4-phenylbutyrate (800 mg, Reference compound No. 4-1) in diethyl ether (10 ml). Benzyl chloroformate (691 mg) is added to the mixture, and the whole is stirred for two hours. Ethyl acetate is added to the reaction mixture, and the whole is washed with a saturated aqueous sodium hydrogencarbonate solution, water and saturated brine successively and dried over anhydrous magnesium sulfate. The organic layer is concentrated under reduced pressure, and the resulting residue is purified by silica gel column chromatography to give the titled reference compound (1.02 g).

reactant | Water | 10 ml | O | H2O
reactant | sodium carbonate | 763 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | isopropyl (2RS,3S)-3-amino-2-hydroxy-4-phenylbutyrate | N[C@H](C(C(=O)OC(C)C)O)CC1=CC=CC=C1 | C13H19NO3
reactant | Benzyl chloroformate | 691 mg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Isopropyl (2RS,3S)-3-(benzyloxycarbonyl)amino-2-hydroxy-4-phenylbutyrate | 1.02 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(C(=O)OC(C)C)O)CC1=CC=CC=C1 | C21H25NO5
